US05114961
trans-2-]3-(2-(-Methanesulfonylethylsulfonyl)-4,5-di-n-propoxyphenyl]-5-(3,4,5-trimethoxyphenyl)tetrahydrofuran
Methanesulfonyl chloride (0.097 mL, 1.25 mmol) was added to a solution of trans-2-[3-(2-hydroxyethylsulfonyl)-4,5-di-n-propoxyphenyl]-5-(3,4,5-trimethoxyphenyl)tetrahydrofuran (338 mg, 0.63 mmol) in dichloromethane (3 mL) and pyridine (1.3 mL). The reaction mixture was stirred at room temperature for 2 h, and worked-up as usual to give a syrup, Rf 0.52 (hexane-ethyl acetate; 1:2 v/v). This material was used directly in the next experiment without further purification.

reactant | Methanesulfonyl chloride | 1.25 mmol, 0.097 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | trans-2-[3-(2-hydroxyethylsulfonyl)-4,5-di-n-propoxyphenyl]-5-(3,4,5-trimethoxyphenyl)tetrahydrofuran | 0.63 mmol, 338 mg | OCCS(=O)(=O)C=1C=C(C=C(C1OCCC)OCCC)[C@@H]1O[C@H](CC1)C1=CC(=C(C(=C1)OC)OC)OC | C27H38O9S
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | pyridine | 1.3 mL | N1=CC=CC=C1 | C5H5N
product | 3-(2-(-Methanesulfonylethylsulfonyl)-4,5-di-n-propoxyphenyl]-5-(3,4,5-trimethoxyphenyl)tetrahydrofuran | CS(=O)(=O)CCS(=O)(=O)C1=C(C=C(C(=C1)OCCC)OCCC)C1COC(C1)C1=CC(=C(C(=C1)OC)OC)OC | C28H40O10S2
